US07671056B2
1) 8-Chloro-5-fluoro-2-(trifluoromethyl)quinolin-4-ol
A solution of ethyl 4,4,4-trifluoroacetoacetate (commercially available, 4 mL, 27.3 mmol, 1.05 eq.) in polyphosphoric acid (22 mL) was heated to 100° C. 2-chloro-5-fluoroaniline (3.78 g, 26.0 mmol, 1 eq.) was added slowly to the stirred hot solution. The resulting reaction mixture was further heated to 150° C. and then stirred at that temperature overnight (approximately 18 hours). The reaction was cooled to room temperature and water was added carefully. The resulting light brown precipitate was collected by vacuum filtration, washed with water and dissolved in ethyl acetate. The ethyl acetate solution was washed with brine, dried over anhydrous MgSO4 and concentrated on a rotary evaporator. The crude product was purified by flash chromatography on silica gel using hexane/ethyl acetate to give 3.54 g (51% yield) of the desired product as an off-white solid; MP=141-142; MS (ES) m/z (relative intensity): 266 (M+H)+ (100).

reactant | ethyl 4,4,4-trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | 2-chloro-5-fluoroaniline | 26.0 mmol, 3.78 g, 1 eq. | ClC1=C(N)C=C(C=C1)F | C6H5ClFN
solvent | water | O | H2O
product | 8-Chloro-5-fluoro-2-(trifluoromethyl)quinolin-4-ol | 3.54 g, 51% yield | ClC=1C=CC(=C2C(=CC(=NC12)C(F)(F)F)O)F | C10H4ClF4NO
